US09056873B2
Step E: 1-Methyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole
To a cold (−78° C.) mixture of 1-methyl-1H-thieno[3,2-c]pyrazole (200 mg, 1.447 mmol) in THF (10 mL) was added n-butyllithium (0.637 mL, 1.592 mmol) dropwise under a nitrogen atmosphere. The reaction mixture was stirred at −78° C. for 60 minutes. Tributylchlorostannane (0.471 mL, 1.737 mmol) was added, and the reaction mixture was stirred at −78° C. for 60 minutes and then warmed to room temperature over a period of 2 hours. The reaction was quenched with brine (20 mL) and extracted with ethyl acetate (2×30 mL). The organic layers were combined, dried over sodium sulfate, concentrated, and purified via flash chromatography, eluting with 20% EtOAc and hexane to give the title compound as a clear oil (420 mg, 68%). 1H NMR (400 MHz, CDCl3) δ ppm 0.76-0.99 (m, 9H), 0.99-1.22 (m, 6H), 1.22-1.51 (m, 6H), 1.51-1.72 (m, 6H), 4.02 (s, 3H), 6.87 (d, J=0.51 Hz, 1H), 7.58 (s, 1H).

reactant | 1-methyl-1H-thieno[3,2-c]pyrazole | 1.447 mmol, 200 mg | CN1N=CC2=C1C=CS2 | C6H6N2S
reactant | n-butyllithium | 1.592 mmol, 0.637 mL | C(CCC)[Li]
reactant | Tributylchlorostannane | 1.737 mmol, 0.471 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Methyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole | 420 mg, 68% | CN1N=CC2=C1C=C(S2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H5N2S.3C4H9.Sn/c1-8-5-2-3-9-6(5)4-7-8;3*1-3-4-2;/h2,4H,1H3;3*1,3-4H2,2H3;
